US09034882B2
To a solution of (S)-methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (5.68 g, 13.81 mmol, 1 equiv) in DCM (92 mL) and t-butyl acetate (184 mL) was added 70% perchloric acid (3.3 mL, 55.2 mmol, 4 equiv). The reaction turned pale yellow. After 3 h, the reaction was added very cautiously to a saturated aqueous solution of NaHCO3 and extracted with CHCl3 (×3). Combined organic extracts dried over Na2SO4 and concentrated in vacuo. The crude product was purified by silica gel flash chromatography (0-70% EtOAc/hexane) to provide (S)-methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetate as a pale yellow solid (2.8 g, 43%) and recovered starting material (3.0 g, 53%). 1H NMR (400 MHz, CDCl3) δ 6.54 (s, 1H), 5.92 (s, 1H), 3.74 (s, 3H), 2.59 (s, 3H), 1.58 (s, 8H), 1.24 (s, 9H), 1.11 (s, 6H); LCMS (ESI, M+1):467.3.

reactant | (S)-methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 13.81 mmol, 5.68 g, 1 equiv | BrC1=NN2C(N=C(C(=C2N2CCC(CC2)(C)C)[C@@H](C(=O)OC)O)C)=C1 | C17H23BrN4O3
reactant | perchloric acid | 55.2 mmol, 3.3 mL, 4 equiv | Cl(=O)(=O)(=O)O | ClHO4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 92 mL | C(Cl)Cl | CH2Cl2
solvent | t-butyl acetate | 184 mL | C(C)(=O)OC(C)(C)C | C6H12O2
product | (S)-methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetate | 2.8 g, 43% | BrC1=NN2C(N=C(C(=C2N2CCC(CC2)(C)C)[C@@H](C(=O)OC)OC(C)(C)C)C)=C1 | C21H31BrN4O3
